US08008505B2
24.6 [rac]-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-trimethylsilanyloxy-acetonitrile
In analogy to the procedure described in example 10.3, [2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methanone was treated with trimethylsilyl cyanide and zinc(II) iodide in triethylamine to give the title compound as yellow solid. MS: m/e=474.2 [M+H+].

reactant | [2-(4-chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-methanone | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(=O)C1CCCCC1)F)F | C20H17ClF2N2O
reactant | trimethylsilyl cyanide | C[Si](C)(C)C#N | C4H9NSi
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | zinc(II) iodide | [I-].[Zn+2].[I-]
product | [rac]-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-cyclohexyl-trimethylsilanyloxy-acetonitrile | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(C#N)(O[Si](C)(C)C)C1CCCCC1)F)F | C24H26ClF2N3OSi
